US07115611B2
To a solution of 180 mg (0.551 mmol) [rac]-5-(1-chloro-ethyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 28H]) and 140 mg (0.551 mmol) (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester in 3 ml DMF was added 315 mg (0.66 mmol) cesium carbonate. The reaction mixture was stirred for 3 h at RT and then partitioned between ether, 1N HCl and water. The crude product was purified by chromatography over silica gel with AcOEt/Heptan 1:9 to give 150 mg of pure [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethylsulfanyl}-2-methyl-phenoxy)-acetic acid tert-butyl ester.

reactant | [rac]-5-(1-chloro-ethyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 0.551 mmol, 180 mg | ClC(C)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C16H14ClF3N2
reactant | (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester | 0.551 mmol, 140 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)S)C)=O | C13H18O3S
reactant | cesium carbonate | 0.66 mmol, 315 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethylsulfanyl}-2-methyl-phenoxy)-acetic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C29H31F3N2O3S
